US08110687B2
To a solution of N-[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(trifluoromethyl)-phenyl]-7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.250 g, 0.39 mol) in THF (5 mL) at 0° C. was added 1.0 M tetra-n-butylammonium fluoride in THF (0.43 mL). The reaction mixture was allowed to stir at 0° C. for 1 h and then at rt overnight. Water was added and the reaction mixture was extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}-oxy)-N-3(hydroxymethyl)-5-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-206 (199 mg, 88%) as a white solid. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 11.48 (br s, 1H), 10.46 (s, 1H), 8.21 (d, 1H), 8.02 (s, 1H), 7.79 (s, 1H), 7.35 (br s, 1H), 7.31 (s, 1H), 7.22 (d, 1H), 6.93-7.02 (m, 2H), 6.81-6.86 (m, 1H), 4.54 (s, 2H), 2.76-2.97 (m, 5H), 2.07-2.15 (m, 1H), 1.90-1.98 (m, 1H), 1.73-1.85 (m, 1H), and 0.81-0.89 (m, 4H). LCMS: (FA) ES+526.4, ES−524.5.

reactant | N-[3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(trifluoromethyl)-phenyl]-7-({2-[(cyclopropylcarbonyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.39 mol, 0.250 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)NC(=O)C1CC1 | C34H40F3N3O4Si
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.43 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydronaphthalene-2-carboxamide | C1C(CCC2=CC=CC=C12)C(=O)N | C11H13NO
